US06384065B1
In 10 ml of anhydrous tetrahydrofuran was dissolved 0.50 g of (3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid. Then, at 0-5° C., 0.22 g of benzyl 3-aminopropionate, 0.19 g of 1-hydroxybenzotriazole monohydrate and 0.26 g of dicyclohexyl carbodiimide were added successively. After stirring the resulting mixture at the same temperature as above for 30 minutes and then at ambient temperature for 5 hours, the insoluble matter was filtered off. The filtrate was poured into a mixture of water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: hexane:ethyl acetate=2:1] gave 0.55 g of benzyl 3-{[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino-propionate as a colorless oily product.

reactant | (3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.50 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(C)C)C(=O)O | C25H29NO4S
reactant | benzyl 3-aminopropionate | 0.22 g | NCCC(=O)OCC1=CC=CC=C1 | C10H13NO2
reactant | 1-hydroxybenzotriazole monohydrate | 0.19 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexyl carbodiimide | 0.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl 3-{[(3R)-4-benzoyl-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino-propionate | 0.55 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)OC2=CC=C(C=C2)C(C)C)C(=O)NCCC(=O)OCC2=CC=CC=C2 | C35H40N2O5S
